US04806536
4-{2-[4-(4-Pyridinyl)-1-piperazinyl]ethyl}benzenesulphonamide
A mixture of 4-(2-chloroethyl)benzenesulphonamide (2.00 g), 1-acetylpiperazine (1.17 g), sodium iodide (1.37 g) and sodium bicarbonate (0.84 g) in n-butanol was heated under reflux with stirring for 66 hours. The mixture was cooled slightly and filtered. The filtrate was allowed to stand and the solid that crystallised out was filtered off and recrystallised from ethyl acetate/methanol to give the title compound (1.10 g), m.p. 203°-204.5° C.

reactant | 4-(2-chloroethyl)benzenesulphonamide | 2.00 g | ClCCC1=CC=C(C=C1)S(=O)(=O)N | C8H10ClNO2S
reactant | 1-acetylpiperazine | 1.17 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | sodium iodide | 1.37 g | [I-].[Na+]
reactant | sodium bicarbonate | 0.84 g | C([O-])(O)=O.[Na+]
solvent | n-butanol | C(CCC)O | C4H10O
product | 4-{2-[4-(4-Pyridinyl)-1-piperazinyl]ethyl}benzenesulphonamide | 1.10 g | N1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=C(C=C1)S(=O)(=O)N | C17H22N4O2S
